US08609644B2
(E) 3-(2-Aminoethoxyimino)-6-methyleneandrostan-17-one hydrochloride (I-ai)
Prepared in 40% yield as described in Example 1 starting from 6-methyleneandrostane-3,17-dione (II-ah, Prepn. 8) and 2-aminoethoxyamine dihydrochloride. The crude product (1.65 g) was crystallized twice from EtOAc to give the title compound I-ai. H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.97 (bb, 3H), 4.81 (bs, 1H), 4.49 (bs, 1H), 4.08 (t, 2H), 3.10 (m, 1H), 3.02 (t, 2H), 2.45-0.85 (m, 19H), 0.77 (s, 3H), 0.75 (s, 3H).

reactant | 6-methyleneandrostane-3,17-dione | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O2
reactant | 2-aminoethoxyamine dihydrochloride | Cl.Cl.NCCON
product | 3-(2-Aminoethoxyimino)-6-methyleneandrostan-17-one hydrochloride | 40% yield | Cl.NCCON=C1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=C | InChI=1S/C22H34N2O2.ClH/c1-14-12-16-17-4-5-20(25)22(17,3)9-7-18(16)21(2)8-6-15(13-19(14)21)24-26-11-10-23;/h16-19H,1,4-13,23H2,2-3H3;1H/t16-,17-,18-,19?,21+,22-;/m0./s1
